US05574178
4-Acetoxy-3,5-di-tert-butyl-2-(2-propenyl)phenol (30 g) and potassium carbonate (13.8 g) were dissolved in acetone (300 ml) and, after addition of methyl iodide (28 g), the solution was stirred for 24 h. After cooling, the reaction mixture was concentrated under reduced pressure and water was added. The mixture was then subjected to extraction with ethyl acetate and the organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel chromatography (10% ethyl acetate in n-hexane) to afford 4-acetoxy-3,5-di-tert-butyl-2-(2-propenyl)anisole (31 g) quantitatively.

reactant | 4-Acetoxy-3,5-di-tert-butyl-2-(2-propenyl)phenol | 30 g | C(C)(=O)OC1=C(C(=C(C=C1C(C)(C)C)O)CC=C)C(C)(C)C | C19H28O3
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 28 g | CI | CH3I
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 4-acetoxy-3,5-di-tert-butyl-2-(2-propenyl)anisole | 31 g | C(C)(=O)OC1=C(C(=C(C=C1C(C)(C)C)OC)CC=C)C(C)(C)C | C20H30O3
